US05576321
Preparation of 3-[4-(6-trifluoromethyl-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)propane
The title compound was prepared in a fashion similar to that described in Example 192 from 6-trifluoromethyl-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (0.50 g, 1.9 mmol), 1-chloro-3-(1H-indole-4-oxy)propane (0.39 g, 1.9 mmol) and potassium carbonate (0.29 g, 2.1 mmol). The product was isolated as a white foam. Yield 0.53 g (64%). mp 190°-195° C. FDMS m/e=440 (M+ of free base).

reactant | 6-trifluoromethyl-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.9 mmol, 0.50 g | FC(C1=CC=C2C(=CNC2=C1)C=1CCNCC1)(F)F | C14H13F3N2
reactant | 1-chloro-3-(1H-indole-4-oxy)propane | 1.9 mmol, 0.39 g | ClCCCOC=1C=2C=CNC2C=CC1 | C11H12ClNO
reactant | potassium carbonate | 2.1 mmol, 0.29 g | C([O-])([O-])=O.[K+].[K+]
product | 3-[4-(6-trifluoromethyl-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)propane | FC(C1=CC=C2C(=CNC2=C1)C=1CCN(CC1)CCCOC1=C2C=CNC2=CC=C1)(F)F | C25H24F3N3O
